US07312225B2
9b) Production of N-[4-(5-Bromo-2-chloro-pyrimidin-4-ylamino)-butyl]-3-nitro-benzamide
A solution of 502 mg (2.2 mmol) of 5-bromo-2,4-dichloro-pyrimidine and 0.4 ml of triethylamine (2.3 mmol) in 2.5 ml of acetonitrile is mixed at 0° C. while being stirred with 547 mg (2.3 mmol) of N-(4-amino-butyl)-3-nitro-benzamide. The batch is stirred overnight at room temperature. The precipitate that is formed is suctioned off, washed with water and dried. 574 mg (1.3 mmol, corresponding to 61% of theory) of the product is obtained.

reactant | 5-bromo-2,4-dichloro-pyrimidine | 2.2 mmol, 502 mg | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | triethylamine | 2.3 mmol, 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | N-(4-amino-butyl)-3-nitro-benzamide | 2.3 mmol, 547 mg | NCCCCNC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C11H15N3O3
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
product | N-[4-(5-Bromo-2-chloro-pyrimidin-4-ylamino)-butyl]-3-nitro-benzamide | BrC=1C(=NC(=NC1)Cl)NCCCCNC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C15H15BrClN5O3
